* ============================================================================
* L7805CV - 5V 1.5A linear regulator (TO-220), behavioural model
* NOT an ST model. Reproduces regulation and dropout only.
*
* Dropout modelled at the datasheet WORST CASE of 2.0 V, so it needs Vin > 7 V.
* At the ~6 mA the digital rail draws, the real part drops far less (~0.5 V),
* so this model is pessimistic - which is the safe direction.
*
* Sized for: digital 5 V rail (comparators, CD4017, CD4051, 74AC logic,
* UCC21520 VCCI) ~ 5.5 mA. Dissipation from 15 V = 55 mW. No heatsink needed.
*
* NOT MODELLED: current limit, thermal shutdown, PSRR vs frequency,
* startup ramp, load/line regulation detail, minimum load requirement.
* ============================================================================
.SUBCKT L7805 IN OUT GND
BR n1 GND V=min(V(IN)-V(GND)-2.0, 5.0)
RO n1 OUT 0.05
IQ IN GND 5m
.ENDS L7805
