* ============================================================================
* Littelfuse 5KP TVS - BEHAVIOURAL versions (smooth knee)
*
* Use these if the .model versions in TVS_5KP.lib cause "timestep too small".
* SPICE diode breakdown is an exponential and can be very stiff at the dV/dt
* your LX node sees; these replace it with a sqrt-smoothed linear clamp that
* is differentiable everywhere.
*
* *** ORIENTATION: these are SUBCIRCUITS with pin order (A K).            ***
* *** Connect A to GROUND and K to LX.  X1 0 LX TVS_5KP54A                ***
* *** A TVS clamps by REVERSE breakdown - cathode goes to the node you    ***
* *** are protecting. This is opposite to a plain diode clamping into a   ***
* *** fixed rail.                                                          ***
*
* VERIFIED in ngspice (5KP54A): 60.49 V at 1 A, 83.15 V at 50 A,
* 87.13 V at 58.6 A (datasheet 87.1 V at 58.6 A). Leakage at a 50 V rail
* is ~5 uA.
*
* NOT MODELLED: peak pulse energy limits, thermal derating, degradation from
* repetitive pulsing, temperature coefficient of VBR (real VBR rises ~0.1%/K).
* The knee is deliberately softened, so leakage just below VBR is larger than
* the real part - do not use these to predict standby leakage.
* ============================================================================
.SUBCKT TVS_5KP54A A K
BCL K A I=0.5*((V(K,A)-60.0)+sqrt((V(K,A)-60.0)*(V(K,A)-60.0)+1e-4))/0.463
DF A K DTVSF
CJ K A 2n
.model DTVSF D(IS=1e-9 N=1.2 RS=0.01)
.ENDS TVS_5KP54A

.SUBCKT TVS_5KP48A A K
BCL K A I=0.5*((V(K,A)-53.3)+sqrt((V(K,A)-53.3)*(V(K,A)-53.3)+1e-4))/0.366
DF A K DTVSF
CJ K A 2n
.model DTVSF D(IS=1e-9 N=1.2 RS=0.01)
.ENDS TVS_5KP48A
